US09120749B2
tert-butyl 4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate
Following general procedure D, tert-butyl 4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (54 mg, 0.10 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.15 mmol) to afford the desired product (36 mg, 58%) as a yellow-brown solid. ESI MS m/z 622 [C32H33Cl2N5O4+H]+

reactant | tert-butyl 4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.10 mmol, 54 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H30BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-butyl 4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 36 mg, 58% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C32H33Cl2N5O4
